US04948523
Preparation of Aminoguanidine Monooleamide
The reaction product of oleic acid and aminoguanidine bicarbonate useful as a silver protective agent in the lubricating composition of the present invention is prepared as follows: to a 5-liter, 3-neck flask was added oleic acid (847.5 g, 3 mols), aminoguanidine bicarbonate (408.33 g, 3 mols), 300 ml of toluene, and 15 drops of a silicon anti-foamant. The reaction mixture was heated to reflux under a nitrogen blanket. Vigorous foaming was noted as carbon dioxide gas evolved. When the foaming subsided, water evolution began. A total 57 ml of water was collected from the reaction by means of a Dean-Stark trap. The temperature of the reaction mixture was then raised to approximately 138° C. to facilitate the removal of toluene. To 1,040 g of the product, believed primarily to be oleyl amide of aminoguanidine, was added 1,040 g of process oil. The yellow oil solution was then filtered. Upon standing in air, this solution became red in color and had the following analysis: 3.83% nitrogen; activity, 50%; and Infra-red absorption (cm-1) as follows: 3380-3040 (broad peak); 2920; 2850; 1665; 1530; 1465; and 1400.

reactant | oleic acid | C(CCCCCCC\C=C/CCCCCCCC)(=O)O | C18H34O2
reactant | aminoguanidine bicarbonate | C(O)(O)=O.NNC(=N)N
reactant | oleic acid | 3 mols, 847.5 g | C(CCCCCCC\C=C/CCCCCCCC)(=O)O | C18H34O2
reactant | aminoguanidine bicarbonate | 3 mols, 408.33 g | C(O)(O)=O.NNC(=N)N
reactant | toluene | 300 ml | C1(=CC=CC=C1)C | C7H8
reactant | carbon dioxide | C(=O)=O | CO2
catalyst | silver | [Ag] | Ag
solvent | water | O | H2O
product | Aminoguanidine Monooleamide | C(CCCCCCC\C=C/CCCCCCCC)(=O)N.NNC(=N)N | InChI=1S/C18H35NO.CH6N4/c1-2-3-4-5-6-7-8-9-10-11-12-13-14-15-16-17-18(19)20;2-1(3)5-4/h9-10H,2-8,11-17H2,1H3,(H2,19,20);4H2,(H4,2,3,5)/b10-9-;
